US05834501
5-{4-(5-chloro-3-methylimidazo[5,4-b]pyridin-2-yl-methoxy)benzyl}thiazolidine-2.4-dione (Compound No. 1-125)
A procedure similar to that described in Example 12 was repeated, except that 1.16 g of 5-{4-(5-chloro-3-methylimidazo[5,4-b]pyridin-2-ylmethoxy)benzyl}-3-triphenylmethylthiazolidine-2,4-dione (prepared as described in Preparation 45) and 16 ml of a 3:1 by volume mixture of acetic acid and water were used, to give the title compound as a crude product. The product was crystallized by trituration with ethyl acetate, to give 0.38 g of the title compound, melting at 222°-223° C.

reactant | 5-{4-(5-chloro-3-methylimidazo[5,4-b]pyridin-2-ylmethoxy)benzyl}-3-triphenylmethylthiazolidine-2,4-dione | 1.16 g | ClC1=CC=C2C(=N1)N(C(=N2)COC2=CC=C(CC1C(N(C(S1)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C=C2)C | C37H29ClN4O3S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 5-{4-(5-chloro-3-methylimidazo[5,4-b]pyridin-2-yl-methoxy)benzyl}thiazolidine-2.4-dione | ClC1=CC=C2C(=N1)N(C(=N2)COC2=CC=C(CC1C(NC(S1)=O)=O)C=C2)C | C18H15ClN4O3S
